US07071208B2
A mixture of 2-amino-3-benzyloxypyridine (2.7 g, 13.5 mmol) and 2-bromo-4-methyl-4-nitropentanal (3.0 g, 13.5 mmol) in ethanol (20 ml) is heated at 100° C. overnight. The solvent is removed under reduced pressure and the residue is treated with saturated aqueous NaHCO3 solution. The aqueous mixture is extracted two times with ethyl acetate. The combined organic extracts are dried over magnesium sulfate and concentrated in vacuo. The residue is chromatographed (silica gel, dichloromethane/ethanol 9:1) to give 2.83 g of 3-(2-methyl-2-nitropropyl)-8-(phenylmethoxy)imidazo[1,2-a]pyridine (64%).

reactant | 2-amino-3-benzyloxypyridine | 13.5 mmol, 2.7 g | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | 2-bromo-4-methyl-4-nitropentanal | 13.5 mmol, 3.0 g | BrC(C=O)CC(C)([N+](=O)[O-])C | C6H10BrNO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(2-methyl-2-nitropropyl)-8-(phenylmethoxy)imidazo[1,2-a]pyridine | 2.83 g, 64% | CC(CC1=CN=C2N1C=CC=C2OCC2=CC=CC=C2)(C)[N+](=O)[O-] | C18H19N3O3
